US04542219
2-Oleyloxyethyl 2-trimethylammonioethyl phosphate
In benzene were dissolved 4.0 g of 2-[(Z)-9-octadecen-1-yl)oxyethanol and 4.6 g of 2-bromoethyl phosphorodichloridate, and following dropwise addition of 1.5 g of pyridine under ice-cooling, the mixture was stirred at room temperature. The reaction mixture was treated by the procedure of Production Example 1 including hydrolysis, quaternization, purification by silica gel column chromatography and recrystallization from chloroform-acetone to give 0.52 g (9%) of the desired product.

reactant | 2-[(Z)-9-octadecen-1-yl)oxyethanol | 4.0 g | C(CCCCCCC\C=C/CCCCCCCC)OCCO | C20H40O2
reactant | 2-bromoethyl phosphorodichloridate | 4.6 g | P(OCCBr)(=O)(Cl)Cl | C2H4BrCl2O2P
reactant | pyridine | 1.5 g | N1=CC=CC=C1 | C5H5N
reactant | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Oleyloxyethyl 2-trimethylammonioethyl phosphate | 0.52 g, 9% | P(=O)(OCCOCCCCCCCC\C=C/CCCCCCCC)(OCC[N+](C)(C)C)[O-] | C25H52NO5P
